US04362738
1-[4-Amino-3-bromo-5-(N-ethyl-cyclohexylaminomethyl)-benzamido]-6-{2-[(2,6-dichlorophenyl)-amino]-phenylacetoxy}-n-hexane
This compound was prepared from 6-[4-amino-3-bromo-5-(N-ethyl-cyclohexylaminomethyl)-benzamido]-n-hexyl chloride and sodium 2-[(2,6-dichlorophenyl)-amino]-phenylacetate analogous to Example 8. Amorphous hydrochloride.

reactant | 6-[4-amino-3-bromo-5-(N-ethyl-cyclohexylaminomethyl)-benzamido]-n-hexyl chloride | NC1=C(C=C(C(=O)NCCCCCCCl)C=C1CN(CC)C1CCCCC1)Br | C22H35BrClN3O
reactant | sodium 2-[(2,6-dichlorophenyl)-amino]-phenylacetate | ClC1=C(C(=CC=C1)Cl)NC1=C(C=CC=C1)CC(=O)[O-].[Na+]
reactant | hydrochloride | Cl | ClH
product | 1-[4-Amino-3-bromo-5-(N-ethyl-cyclohexylaminomethyl)-benzamido]-6-{2-[(2,6-dichlorophenyl)-amino]-phenylacetoxy}-n-hexane | NC1=C(C=C(C(=O)NCCCCCCOC(CC2=C(C=CC=C2)NC2=C(C=CC=C2Cl)Cl)=O)C=C1CN(CC)C1CCCCC1)Br | C36H45BrCl2N4O3
